US06248764B1
(2-Benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone
At −78° C., to a stirred solution of (2-benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-methoxy-phenyl)-methanone (2.00 g, 4.94 mmol) in CH2Cl2 (16.6 mL) was added 1M boron tribromide/ CH2Cl2 (10.4 mL). After the addition was complete, the dry ice/acetone bath was replaced with an ice bath and the reaction was stirred for 1.5 h. The reaction was quenched into crushed ice (18 g), diluted with H2O (20 mL) and extracted with ether. The combined ethereal extracts were washed with brine, dried (MgSO4) and concentrated. The crude product was purified on silica gel eluting with 15% acetone/hexane to give 0.97 g (50%) of the title compound as a white solid, mp 138° C.; 1H NMR (DMSO-d6) δ1.14 (d, 12H), 1.80 (s, 3H), 2.19 (s, 3H), 3.34 [septet (under H2O peak), 2H], 3.84 (s, 2H), 7.04 (d, 2H), 7.17-7.25 (m, 3H), 7.44 (s, 2H), 9.11 (s, 1H). IR (KBr) 3400, 2950, 1580, 1320, 1200 cm−1. mass spectrum (EI), m/z 390 (M+). Anal. Calcd. for C26H30O3.0.2H2O: C, 79.24; H, 7.77; N, 0.12. Found: C, 79.27; H, 7.85; N, 0.12.

reactant | (2-benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-methoxy-phenyl)-methanone | 4.94 mmol, 2.00 g | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)C(C)C)OC)C(C)C)C)C | C27H32O3
reactant | boron tribromide CH2Cl2 | 1M, 10.4 mL | B(Br)(Br)Br.C(Cl)Cl
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | CH2Cl2 | 16.6 mL | C(Cl)Cl | CH2Cl2
product | (2-Benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone | 0.97 g, 50% | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)C(C)C)O)C(C)C)C)C | C26H30O3
